US04000295
Triethylamine (1.0 gram; 0.00968 mole) was added to 3.0 grams of 4-chloro-5,7-dinitro-2-trifluoromethylbenzimidazole (0.00968 mole) in 200 milliliters of benzene. There was then added dropwise 0.8 gram of piperidine (0.00968 mole) in 10 milliliters of benzene. The resulting reaction mixture was refluxed overnight, cooled, an amount of ether added, and the mixture filtered. The filtrate was evaporated, yielding the desired 4-piperidino-5,7-dinitro-2-trifluoromethylbenzimidazole product as an orange solid. It was recrystallized from benzene as a light brown solid, m.p., 199°-206° C. NMR analysis confirmed the identity but suggested the presence of a small amount of triethylamine.

reactant | Triethylamine | 0.00968 mole, 1.0 gram | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-5,7-dinitro-2-trifluoromethylbenzimidazole | 0.00968 mole, 3.0 grams | ClC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C8H2ClF3N4O4
reactant | piperidine | 0.00968 mole, 0.8 gram | N1CCCCC1 | C5H11N
reactant | ether | CCOCC | C4H10O
solvent | benzene | 200 milliliters | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 milliliters | C1=CC=CC=C1 | C6H6
product | 4-piperidino-5,7-dinitro-2-trifluoromethylbenzimidazole | N1(CCCCC1)C1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C13H12F3N5O4
